Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(=O)[NH:1][c:2]1[s:3][c:4]([S:5](=[O:6])(=[O:7])[c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[C:21]([NH2:22])=[O:23]>>[NH2:1][c:2]1[s:3][c:4]([S:5](=[O:6])(=[O:7])[c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[C:21]([NH2:22])=[O:23],[CH3:202][C:101](=[O:201])[NH:1][c:2]1[s:3][c:4]([S:5](=[O:6])(=[O:7])[c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[C:21]([NH2:22])=[O:23].[OH2:301].[H+:302]>>[NH2:1][c:2]1[s:3][c:4]([S:5](=[O:6])(=[O:7])[c:8]2[cH:9][cH:10][c:11]([O:12][C:13]([F:14])([F:15])[F:16])[cH:17][cH:18]2)[cH:19][c:20]1[C:21]([NH2:22])=[O:23],carboxylic_acid_derivative_hydrolysis_or_formation,"[(201, 302), (301, 101), ([101, 201], 201), (1, 301.1), ([301.1, 301], 301), (201, [201, 101]), ([101, 1], 1), ([201.1, 201], 201)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([CH:11]([CH3:12])[CH3:13])[cH:14][cH:15]2)[n:16]1.[CH3:17][CH2:18][O:19][C:20](=[O:21])[CH:22]([CH2:23][c:24]1[cH:25][cH:26][cH:27][c:28]2[nH:29][cH:30][cH:31][c:32]12)[O:33][CH2:34][CH3:35]>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([CH:11]([CH3:12])[CH3:13])[cH:14][cH:15]2)[n:16]1)[n:29]1[c:28]2[cH:27][cH:26][cH:25][c:24]([CH2:23][CH:22]([C:20]([O:19][CH2:18][CH3:17])=[O:21])[O:33][CH2:34][CH3:35])[c:32]2[cH:31][cH:30]1,[CH3:17][CH2:18][O:19][C:20](=[O:21])[CH:22]([CH2:23][c:24]1[cH:25][cH:26][cH:27][c:28]2[nH:29][cH:30][cH:31][c:32]12)[O:33][CH2:34][CH3:35].[Cl:101][CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([CH:11]([CH3:12])[CH3:13])[cH:14][cH:15]2)[n:16]1>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([CH:11]([CH3:12])[CH3:13])[cH:14][cH:15]2)[n:16]1)[n:29]1[c:28]2[cH:27][cH:26][cH:25][c:24]([CH2:23][CH:22]([C:20]([O:19][CH2:18][CH3:17])=[O:21])[O:33][CH2:34][CH3:35])[c:32]2[cH:31][cH:30]1,SN2,"[(29, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([c:2]1[cH:3][n:4]([CH3:5])[n:6][cH:7]1)(=[O:8])=[O:9].[CH3:10][NH:11][CH2:12][CH:13]([O:14][CH3:15])[O:16][CH3:17]>>[S:1]([c:2]1[cH:3][n:4]([CH3:5])[n:6][cH:7]1)(=[O:8])(=[O:9])[N:11]([CH3:10])[CH2:12][CH:13]([O:14][CH3:15])[O:16][CH3:17],[Cl:101][S:1]([c:2]1[cH:3][n:4]([CH3:5])[n:6][cH:7]1)(=[O:8])=[O:9].[CH3:10][NH:11][CH2:12][CH:13]([O:14][CH3:15])[O:16][CH3:17]>>[S:1]([c:2]1[cH:3][n:4]([CH3:5])[n:6][cH:7]1)(=[O:8])(=[O:9])[N:11]([CH3:10])[CH2:12][CH:13]([O:14][CH3:15])[O:16][CH3:17],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(11, 1), ([1, 8], 8), (8, [8, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH2:2][c:3]1[c:4]([CH3:5])[o:6][c:7](-[c:8]2[cH:13][cH:12][cH:11][cH:10][cH:9]2)[n:14]1)=[O:15].[NH2:16][c:17]1[cH:18][cH:19][c:20]([CH2:21][CH:22]2[S:23][C:24](=[O:25])[NH:26][C:27]2=[O:28])[cH:29][cH:30]1>>[C:1]([CH2:2][c:3]1[c:4]([CH3:5])[o:6][c:7](-[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[n:14]1)(=[O:15])[NH:16][c:17]1[cH:18][cH:19][c:20]([CH2:21][CH:22]2[S:23][C:24](=[O:25])[NH:26][C:27]2=[O:28])[cH:29][cH:30]1,[OH:101][C:1]([CH2:2][c:3]1[c:4]([CH3:5])[o:6][c:7](-[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[n:14]1)=[O:15].[NH2:16][c:17]1[cH:18][cH:19][c:20]([CH2:21][CH:22]2[S:23][C:24](=[O:25])[NH:26][C:27]2=[O:28])[cH:29][cH:30]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][c:3]1[c:4]([CH3:5])[o:6][c:7](-[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[n:14]1)(=[O:15])[NH:16][c:17]1[cH:18][cH:19][c:20]([CH2:21][CH:22]2[S:23][C:24](=[O:25])[NH:26][C:27]2=[O:28])[cH:29][cH:30]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 15], 15), (303, 16.1), ([16.1, 16], 16), (15, [15, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
